### PR TITLE
Adapt to https://github.com/rocq-prover/rocq/pull/21126

### PR DESCRIPTION
**Pull request by proux01**
Adapt to https://github.com/rocq-prover/rocq/pull/21126

### CODE REVIEW

File: algebra/polydiv.v [hunk 1]
```diff
@@ -2274,7 +2274,7 @@ have gn0 : gcdp p q != 0.
 have sp' : size (p %/ (gcdp p q)) <= k.
   rewrite size_divp ?sgp // leq_subLR (leq_trans hs) // -add1n leq_add2r -subn1.
   by rewrite ltn_subRL add1n ltn_neqAle eq_sym [_ == _]cop size_poly_gt0 gn0.
-case (ihk _ sp')=> r' dr'p'; first rewrite p'n0 orbF=> cr'q maxr'.
+case: (ihk _ sp') => r' dr'p'; rewrite p'n0 orbF => cr'q maxr'.
```
Comment (gares) [inline algebra/polydiv.v:2277]: Is the space before `=>` necessary (also in other diffs) or you polishing the file?
Just curious.

File: solvable/extremal.v [hunk 2]
```diff
@@ -1685,7 +1685,7 @@ case: ifP => [isoG | _] in cG * => [_ _ /=|].
   case: leqP isoM => // n_gt3 [//|isoMy isoMxy defX].
   have n1_gt2: n.-1 > 2 by rewrite -(subnKC n_gt3).
   by split=> //; apply/quaternion_classP; exists n.-1.
-do [case: ifP => [isoG | _]; last by case: ifP] in cG * => /= _; move/eqnP=> oy.
+(do [case: ifP => [isoG | _]; last by case: ifP] in cG * ) => /= _ /eqnP oy.
```
Comment (gares) [inline solvable/extremal.v]: I don't mind if now parentheses are necessary.
If they are, then the Rocq changelog should mention this change.
If they are not, and here you just wanted to clarify, all is good.

File: algebra/polydiv.v (hunk 1 above)
Comment (proux01) [reply algebra/polydiv.v:2277]: Indeed, pure polishing. I isolated those in a separate commit to clarify things.

File: solvable/extremal.v (hunk 2 above)
Comment (proux01) [reply solvable/extremal.v]: In fact, the parentheses is not needed. Let's get rid of that change.

File: algebra/spectral.v [hunk 3]
```diff
@@ -88,7 +88,7 @@ Qed.
 Notation "M ^t*" := (M ^t conjC) (at level 30) : sesquilinear_scope.
 Notation realmx := (mxOver Num.real).
 
-Lemma trmxCK {C : numClosedFieldType} m n (A : 'M[C]_(m, n)) : A ^t* ^t* = A.
+Lemma trmxCK {C : numClosedFieldType} m n (A : 'M[C]_(m, n)) : (A ^t* ) ^t* = A.
```
Comment (pi8027) [inline algebra/spectral.v]: Do we really need to add these parentheses?

File: field/algebraics_fundamentals.v [hunk 4]
```diff
@@ -193,7 +193,7 @@ have /dvdzP[b Da]: (denq y %| a)%Z.
 pose m := `|(numq y * b + N)%R|%N.
 have Dm: m%:R = `|y * a%:~R + N%:R|.
   by rewrite pmulrn abszE intr_norm Da rmorphD !rmorphM /= numqE mulrAC mulrA.
-have ltr_Qnat n1 n2 : (n1%:R < n2%:R :> rat = _) := ltr_nat _ n1 n2.
+have ltr_Qnat n1 n2 : ((n1%:R < n2%:R :> rat) = _) := ltr_nat _ n1 n2.
```
Comment (pi8027) [inline field/algebraics_fundamentals.v]: While we are at it, we can probably remove the outer parentheses here.

File: algebra/spectral.v (hunk 3 above)
Comment (proux01) [reply algebra/spectral.v]: Yes because `_ ^t*` has been put at level 30 that is right associative.Alternatively, we could change it to left-associative level 29. Let's try that.

Comment (pi8027) [reply algebra/spectral.v]: Ping @affeldt-aist

Comment (pi8027) [reply algebra/spectral.v]: If we change the notation, we need a changelog entry. We can also do it in another PR.

Comment (proux01) [reply algebra/spectral.v]: Yes, I added the changelog entry. But let CI first confirm we are not destroying everything (likely not I guess) before comiting to this solution.

File: doc/changelog/02-changed/1490-rocq21126.md [hunk 5]
```diff
@@ -0,0 +1,4 @@
+- in `spectral.v`
+  + notation `_ ^t*` moved from level 30 (right associative)
+    to lvel 20 (left associative)
```
Comment (pi8027) [inline doc/changelog/02-changed/1490-rocq21126.md]:
```suggestion
    to level 29 (left associative)
```

Comment (proux01) [reply doc/changelog/02-changed/1490-rocq21126.md]: Indeed, thanks
